US05773428
A mixture of 2-(4-biphenyl-4-yl-imidazol-1-yl)succinic acid 4-benzyl ester (450 mg, 1.05 mmol), (10S)-10-amino-9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraene (284 mg, 0.95 mmol), EDCI (302 mg, 1.5 mmol), HOBT (142 mg, 1.05 mmol), N-methylmorpholine (0.14 mL) and DMAP (50 mg) in DMF (10 mL) was stirred at room temperature overnight. The solution was diluted with 100 mL of EtOAc and washed with brine and saturated NaHCO3 and dried. The crude product obtained after removal of solvents was purified by column chromagraphy to give (3RS,10S)-3-(4-biphenyl-4-yl-imidazol-1-yl)-N-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl-succinamic acid benzyl ester.

reactant | 2-(4-biphenyl-4-yl-imidazol-1-yl)succinic acid 4-benzyl ester | 1.05 mmol, 450 mg | C(C1=CC=CC=C1)OC(CC(C(=O)O)N1C=NC(=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H22N2O4
reactant | (10S)-10-amino-9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraene | 0.95 mmol, 284 mg | N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O | C17H23N3O
reactant | EDCI | 1.5 mmol, 302 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.05 mmol, 142 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.14 mL | CN1CCOCC1 | C5H11NO
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl-succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C(CC(=O)N)C1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O | C28H33N3O4
